US04618677
1.2 g of phenyl isocyanate was added to a solution of 2.5 g of 3-[4-(4-fluorophenyl)piperazin-1-yl]propanethiol in 75 ml of methylene chloride, and the mixture was refluxed for four hours. After the further addition of 100 ml of methylene chloride the solution was washed with water, dried (sodium sulfate) and concentrated. The salt was precipitated with ethereal hydrochloric acid and recrystallized from aqueous ethanol to give 1.35 g (33% of theory) of N-phenyl-S-{3-[4-(4-fluorophenyl)piperazin-1-yl]propyl}thiocarbamate dihydrochloride as a white crystalline solid, M.p. 250°-252° C.

reactant | phenyl isocyanate | 1.2 g | C1(=CC=CC=C1)N=C=O | C7H5NO
reactant | 3-[4-(4-fluorophenyl)piperazin-1-yl]propanethiol | 2.5 g | FC1=CC=C(C=C1)N1CCN(CC1)CCCS | C13H19FN2S
reactant | methylene chloride | 75 ml | C(Cl)Cl | CH2Cl2
reactant | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | N-phenyl-S-{3-[4-(4-fluorophenyl)piperazin-1-yl]propyl}thiocarbamate dihydrochloride | 1.35 g, 33% | Cl.Cl.C1(=CC=CC=C1)NC(O)=SCCCN1CCN(CC1)C1=CC=C(C=C1)F | InChI=1S/C20H26FN3OS.2ClH/c21-17-7-9-19(10-8-17)24-14-12-23(13-15-24)11-4-16-26-20(25)22-18-5-2-1-3-6-18;;/h1-3,5-10,22,25-26H,4,11-16H2;2*1H
